US05013841
A mixture of 19.4 g of 2,3,4,6-tetrafluorobenzoic acid, 200 ml of dioxane and 35.3 ml of benzylamine was heated under reflux for 3 hours. The reaction mixture was concentrated to dryness under reduced pressure. Water was added to the residue, and hydrochloric acid was added to adjust the pH of the solution to 3. The solution was then extracted with ethyl acetate. The extract was dried, treated with activated carbon and concentrated. Ether and n-hexane were added to the residue, and the crystals were collected by filtration to give 20.2 g of 2-benzylamino-3,4,6-trifluorobenzoic acid. m.p. 140°-141° C.

reactant | 2,3,4,6-tetrafluorobenzoic acid | 19.4 g | FC1=C(C(=O)O)C(=CC(=C1F)F)F | C7H2F4O2
reactant | benzylamine | 35.3 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-benzylamino-3,4,6-trifluorobenzoic acid | 20.2 g | C(C1=CC=CC=C1)NC1=C(C(=O)O)C(=CC(=C1F)F)F | C14H10F3NO2
